US08314131B2
Preparation of 4-Bromo-N-isopropyl-2-nitrobenzenamine
To a stirred, cold (0° C.) solution of 4-bromo-1-fluoro-2-nitrobenzene (7 g, 32 mmol) in dichloromethane (100 mL) was added isopropylamine (5 mL, 64 mmol). The mixture was allowed to stir at 0° C. for 3 h and room temperature overnight. It was diluted with water and extracted with CH2Cl2. The organic layer was washed with water and brine, dried (MgSO4), and filtered. The filtrate was concentrated in vacuo to give a crude red solid. Trituration with MeOH afforded the title compound as an orange-red solid. MS (ESI, pos. ion) m/z: 260.7 (M+1).

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 32 mmol, 7 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | isopropylamine | 64 mmol, 5 mL | C(C)(C)N | C3H9N
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-Bromo-N-isopropyl-2-nitrobenzenamine | BrC1=CC(=C(C=C1)NC(C)C)[N+](=O)[O-] | C9H11BrN2O2
